US07354942B2
To a solution of rac-methyl-N-(diphenylmethylene)phenylalaninate (0.50 g, 1.4 mmol) (for synthesis see: O'Donnell et al, J. Org. Chem. 1982, 47, 2663-2666) in 6 mL DMF at 0° C. was added 95% NaH (0.14 g, 5.6 mmol). After 30 min, butyl iodide was added via syringe to the dark red reaction. After 30 min at 0° C., the reaction was warmed to rt for 14 h, then quenched by the addition of water. The aqueous layer was extracted with EtOAc (2×), the combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (40 g silica, 0->8% EtOAc/hexanes) afforded methyl-α-butyl-N-(diphenylmethylene)phenylalaninate as a viscous oil. 1H NMR (400 MHz, CDCl3) δ 7.57 (m, 2H), 7.37-7.17 (m, 11H), 7.05-7.03 (m, 2H), 3.36 (d, J=11.5 Hz, 1H), 3.32 (d, J=11.5 Hz, 1H), 3.24 (s, 3H), 1.78 (m, 2H), 1.41 (m, 2H), 1.29-1.24 (m, 2H), 0.89 (t, J=7.2 Hz, 3H). LC/MS M+H=400.

reactant | rac-methyl-N-(diphenylmethylene)phenylalaninate | 1.4 mmol, 0.50 g | COC([C@@H](N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H21NO2
reactant | NaH | 5.6 mmol, 0.14 g | [H-].[Na+]
reactant | butyl iodide | C(CCC)I | C4H9I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | methyl-α-butyl-N-(diphenylmethylene)phenylalaninate | COC([C@@](N=C(C1=CC=CC=C1)C1=CC=CC=C1)(CC1=CC=CC=C1)CCCC)=O | C27H29NO2
